US08975282B2
Step 3) 4-(4-(1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamido)-2-fluorophenoxy)picolinamide
To a solution of N-(3-fluoro-4-hydroxyphenyl)-1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamide (7.18 g, 21.1 mmol) in DMF (200 mL) was added potassium tert-butoxide (7.08 g, 63.2 mmol). The solution was stirred at rt for 20 minutes, followed by the addition of 4-chloropicolinamide (4.27 g, 25.2 mmol). The reaction was heated at 120° C. for 3 hours, then cocentrated to 2 mL in vacuo, and diluted with water (60 mL). The precipitate was obtained by filtration, and then washed with water (10 mL). The crude product was purified by a silica gel column chromatography (DCM/EtOAc/MeOH (v/v/v)=1/1/0.05) to give the title compound as a yellow solid (4.15 g, 43% yield).

reactant | N-(3-fluoro-4-hydroxyphenyl)-1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamide | 21.1 mmol, 7.18 g | FC=1C=C(C=CC1O)NC(=O)C=1C(N(N(C1C)C)C1=CC=CC=C1)=O | C18H16FN3O3
reactant | potassium tert-butoxide | 63.2 mmol, 7.08 g | CC(C)([O-])C.[K+]
reactant | 4-chloropicolinamide | 25.2 mmol, 4.27 g | ClC1=CC(=NC=C1)C(=O)N | C6H5ClN2O
solvent | DMF | 200 mL | CN(C)C=O | C3H7NO
solvent | water | 60 mL | O | H2O
product | 4-(4-(1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamido)-2-fluorophenoxy)picolinamide | 4.15 g, 43% yield | CN1N(C(C(=C1C)C(=O)NC1=CC(=C(OC2=CC(=NC=C2)C(=O)N)C=C1)F)=O)C1=CC=CC=C1 | C24H20FN5O4
